US04352818
1.30 g (5.25 mmol) of 7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one are stirred at 90° for 30 minutes in 10 ml of dimethylformamide with 800 mg (6 mmol) of N-chlorosuccinimide. Subsequently, the mixture is poured into water and extracted with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulphate and evaporated. By column chromatography on silica gel there is obtained 3,7-dichloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 211°-212°.

reactant | 7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 5.25 mmol, 1.30 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1)C)=O | C12H10ClN3O
reactant | N-chlorosuccinimide | 6 mmol, 800 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,7-dichloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C12H9Cl2N3O
